US06787652B1
2-[3,5-Dichloro-4-(4-methoxy-3-nitro-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione
To a cooled (0° C.), stirred solution of nitric acid (20 mL) in acetic acid (65 mL) was added 2-[3,5-dichloro-4-(4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione (5.0 g) and the resulting mixture was allowed to stir at ambient temperature for 1.5 h. The resulting solution was poured into 400 mL of water, the resulting solids filtered and dried to afford the title compound of Step A as a yellow solid, 5.1 g. MS Calc.:425.2; Found: 422.9.

reactant | nitric acid | 20 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2-[3,5-dichloro-4-(4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione | 5.0 g | ClC=1C=C(C=C(C1OC1=CC=C(C=C1)OC)Cl)N1N=CC(NC1=O)=O | C16H11Cl2N3O4
reactant | water | 400 mL | O | H2O
solvent | acetic acid | 65 mL | C(C)(=O)O | C2H4O2
product | 2-[3,5-Dichloro-4-(4-methoxy-3-nitro-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)[N+](=O)[O-])Cl)N1N=CC(NC1=O)=O | C16H10Cl2N4O6
